US08058045B2
Acetonitrile (1212 μL) and 0.5M sodium carbonate solution (0.36 mL, 1.5 eq) were added to tert-butyl 4-(2-amino-5-bromopyridin-4-ylamino)piperidine-1-carboxylate (45 mg, 0.121 mmol), 4-methoxyphenylboronic acid (27.6 mg, 0.182 mmol), and tetrakis(triphenylphosphine)palladium(0) (7.00 mg, 6.06 μmol) in a microwave vial (0.5 mL). The capped vial was heated to 150° C. by microwave irradiation for 20 min. After cooling the solution was diluted with MeOH and purified by ion exchange on SCX-II acidic resin (2 g) column, eluting with MeOH then 2M ammonia in MeOH. The basic fractions were combined and concentrated. The crude product was dissolved in dichloromethane and loaded onto a Biotage SNAP silica column (10 g) which was eluted with a gradient of MeOH/NH3 (99/1) in dichloromethane to give tert-butyl 4-(2-amino-5-(4-methoxyphenyl)pyridin-4-ylamino)piperidine-1-carboxylate (19 mg, 0.048 mmol, 39%) as a colourless foam.

reactant | Acetonitrile | 1212 μL | C(C)#N | C2H3N
reactant | sodium carbonate | 0.5M, 0.36 mL, 1.5 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 4-(2-amino-5-bromopyridin-4-ylamino)piperidine-1-carboxylate | 0.121 mmol, 45 mg | NC1=NC=C(C(=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)Br | C15H23BrN4O2
reactant | 4-methoxyphenylboronic acid | 0.182 mmol, 27.6 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | MeOH | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 6.06 μmol, 7.00 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-(2-amino-5-(4-methoxyphenyl)pyridin-4-ylamino)piperidine-1-carboxylate | 0.048 mmol, 19 mg, 39% | NC1=NC=C(C(=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OC | C22H30N4O3
